US06720320B2
(S)-4-glycidyloxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 4-hydroxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene (2.20 g), (S)-glycidyl nosylate (2.38 g) and potassium carbonate (3.18 g), a crude product of the title compound was quantitatively obtained as pale-yellow crystals.

reactant | 4-hydroxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene | 2.20 g | OC1=CC=CC=2SC(=CC21)C=2OC(=CN2)C | C12H9NO2S
reactant | (S)-glycidyl nosylate | 2.38 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 3.18 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-4-glycidyloxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene | C([C@@H]1CO1)OC1=CC=CC=2SC(=CC21)C=2OC(=CN2)C | C15H13NO3S
